US04873262
2-Dipropylamino-8-(2-ureido-ethyl)-1,2,3,4-tetrahydronaphthalene
1.1 g (4 mmol) of 2-dipropylamino-8-(2-aminoethyl)-1,2,3,4-tetrahydronaphthalene were dissolved in 8 ml of water and 8 ml of 1N hydrochloric acid, and heated to +60° C. A solution of 3.24 g (40 mmol) of potassium cyanate and 15 ml of water was added dropwise at this temperature. The mixture was stirred for 1 h at +60° C. The mixture was then cooled and filtered under suction. The product was recrystallized from petroleum ether/diisopropyl ether with activated charcoal.

reactant | 2-dipropylamino-8-(2-aminoethyl)-1,2,3,4-tetrahydronaphthalene | 4 mmol, 1.1 g | C(CC)N(C1CC2=C(C=CC=C2CC1)CCN)CCC | C18H30N2
reactant | potassium cyanate | 40 mmol, 3.24 g | [O-]C#N.[K+]
solvent | water | 8 ml | O | H2O
solvent | hydrochloric acid | 1N, 8 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
product | 2-Dipropylamino-8-(2-ureido-ethyl)-1,2,3,4-tetrahydronaphthalene | C(CC)N(C1CC2=C(C=CC=C2CC1)CCNC(=O)N)CCC | C19H31N3O
